### PR TITLE
Support for floating point

### LINKED ISSUE #164: Support floating point

### PR DESCRIPTION
**Pull request by gmalecha-at-skylabs**
Closes #164 

Subsumes #123

### CODE REVIEW

File: rocq-skylabs-brick/theories/lang/cpp/semantics/values.v [hunk 1]
```diff
@@ -140,12 +142,16 @@ Module Type VAL_MIXIN (Import P : PTRS) (Import R : RAW_BYTES).
   Proof. by move=> []. Qed.
   Lemma Vchar_inj a b : Vchar a = Vchar b -> a = b.
   Proof. by move=> []. Qed.
+  Axiom Vfloat_inj : forall f (a b : float_type.car f),
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/semantics/values.v]: Must be provable since Vfloat is a constructor

**Review by pgiarrusso-sl — APPROVED** [review]

File: rocq-skylabs-brick/theories/lang/cpp/semantics/cast.v [hunk 2]
```diff
@@ -210,6 +210,109 @@ Section conv_int.
...
+          end
+      | _ => False
+      end
+  | Tfloat_ _ , Tchar_ ct =>
+      match v with
+      | Vfloat f z =>
+          match float_value.to_int f z with
+          | Some n =>
+              v' = Vchar (to_char (int_rank.bitsN int_rank.Iint) Signed
+                (char_type.bitsN ct) n)
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/semantics/cast.v]: This needs a boundedness check.

File: rocq-skylabs-brick/theories/lang/cpp/semantics/cast.v [hunk 3]
```diff
@@ -210,6 +210,109 @@ Section conv_int.
...
+Arguments conv_float !_ !_ _ _ /.
+
+Section conv_float.
+  Context `{Hmod : tu ⊧ σ}.
+
+  Lemma conv_float_well_typed ty ty' v v' :
+       tu ⊧ σ ->
+       conv_float tu ty ty' v v' ->
+       has_type_prop v ty /\ has_type_prop v' ty'.
+  Proof using Hmod. Admitted.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/semantics/cast.v]: Proof needed.

File: rocq-skylabs-brick/theories/lang/cpp/semantics/operator.v [hunk 4]
```diff
@@ -183,6 +210,10 @@ Axiom eval_div : forall `{supports_arith ty} (a b : Z),
     let c := Z.quot a b in
     has_type_prop (Vint c) ty ->
     eval_binop_pure Bdiv ty ty ty (Vint a) (Vint b) (Vint c).
+Axiom eval_float_div : forall f (a b : float_type.car f),
+    let c := float_value.div f a b in
+    eval_binop_pure Bdiv (Tfloat_ f) (Tfloat_ f) (Tfloat_ f)
+      (Vfloat f a) (Vfloat f b) (Vfloat f c).
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/semantics/operator.v]: Since no side-condition is present, this should move up.

File: rocq-skylabs-brick/theories/lang/cpp/semantics/values.v [hunk 5]
```diff
@@ -93,8 +95,7 @@ Module Type VAL_MIXIN (Import P : PTRS) (Import R : RAW_BYTES).
   (* TODO Maybe this should be removed *)
   #[global] Coercion Vint : Z >-> val.
 
-  Definition val_dec : forall a b : val, {a = b} + {a <> b}.
-  Proof. solve_decision. Defined.
+  Parameter val_dec : forall a b : val, {a = b} + {a <> b}.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/semantics/values.v]: Fix this.

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v [hunk 6]
```diff
@@ -382,7 +384,255 @@ Module float_type.
...
+    | Ffloat => Bdiv _ _ (mw_gt_0 Ffloat) (mw_lt_ew Ffloat) (@binop_nan Ffloat) m
+    | Fdouble => Bdiv _ _ (mw_gt_0 Fdouble) (mw_lt_ew Fdouble) (@binop_nan Fdouble) m
+    | Flongdouble => Bdiv _ _ (mw_gt_0 Flongdouble) (mw_lt_ew Flongdouble) (@binop_nan Flongdouble) m
+    | Ffloat128 => Bdiv _ _ (mw_gt_0 Ffloat128) (mw_lt_ew Ffloat128) (@binop_nan Ffloat128) m
+    end.
+
+  Definition add (t : t) : car t -> car t -> car t := add_with_mode BinarySingleNaN.mode_NE t.
+  Definition sub (t : t) : car t -> car t -> car t := sub_with_mode BinarySingleNaN.mode_NE t.
+  Definition mul (t : t) : car t -> car t -> car t := mul_with_mode BinarySingleNaN.mode_NE t.
+  Definition div (t : t) : car t -> car t -> car t := div_with_mode BinarySingleNaN.mode_NE t.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v:600]: We fix the rounding mode to nearest-even. BRiCk will not support changing this at runtime.

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v [hunk 7]
```diff
@@ -382,7 +384,255 @@ Module float_type.
...
+  Definition value_compare (t : t) : car t -> car t -> option comparison :=
+    match t return car t -> car t -> option comparison with
+    | Ffloat16 => Bcompare _ _
+    | Ffloat => Bcompare _ _
+    | Fdouble => Bcompare _ _
+    | Flongdouble => Bcompare _ _
+    | Ffloat128 => Bcompare _ _
+    end.
+
+  Definition eqb (t : t) (v1 v2 : car t) : bool :=
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v:611]: We're missing a correctness theorem here.

**Review by pgiarrusso-sl — APPROVED** [review]

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v (hunk 7 above)
Comment (gmalecha-at-skylabs) [reply rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v:611]: I think that we should leave these as is for now. There are ways to reason about floating point, but the semantics is pretty subtle due to things like `NaN` and `Inf`.
